* H:\Materi Kuliah\Semester 7\Elday\UAS_Elektronika Daya\Task 1\Low Side\Switching MOSFET.asc
V2 N002 0 PULSE(0 10 0 10n 10n 5u 10u)
Rg gate N002 10
M1 drain gate 0 0 IRFZ44N
V1 N001 0 15
R_load N001 drain 150
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USERR\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0.98m 0.1n uic
.option reltol=0.1
.backanno
.end
