* H:\Materi Kuliah\Semester 7\Elday\UAS_Elektronika Daya\Task 1\Low-Side Totem-Pole\Totem Pole MOSFET.asc
Q1 Vd N001 gate 0 2N3904
Q2 gate N001 0 0 2N3906
Rg N001 N002 1k
M1 drain gate 0 0 IRFZ44N
R_load Vs drain 150
V1 Vd 0 15
V2 Vs 0 15
V3 N002 0 PULSE(0 10 0 10n 10n 5u 10u)
.model NPN NPN
.model PNP PNP
.lib C:\Users\USERR\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USERR\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20e-6
.backanno
.end
